US05808062
4-Hydroxy-3-[(2-isopropylphenyl)thio]-6-(4-methoxyphenyl)-2H-pyran-2-one:
The title compound was prepared by Method A using 4'-methoxyacetophenone (2.26 g, 15.1 mmol), trimethylsilyl triflate (3.5 mL, 18.1 mmol), triethylamine (4.26 mL, 30.6 mmol), methylene chloride (30 mL), and diethyl ester of [(2-isopropylphenyl)thio]propanedioic acid (3.11 g, 10.0 mmol) m.p. 221°-223° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.25 (d, 6H), 3.40 (m, 1H), 3.85 (s, 3H), 6.78 (s, 1H), 6.92 (m, 1H), 7.10 (m, 4H), 7.27 (m, 1H), 7.81 (d, 2H), 12.38 (brs, 1H).

reactant | 4'-methoxyacetophenone | 15.1 mmol, 2.26 g | COC1=CC=C(C=C1)C(C)=O | C9H10O2
reactant | trimethylsilyl triflate | 18.1 mmol, 3.5 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 30.6 mmol, 4.26 mL | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio]propanedioic acid | 10.0 mmol, 3.11 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-3-[(2-isopropylphenyl)thio]-6-(4-methoxyphenyl)-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=C(C=C1)OC)=O)SC1=C(C=CC=C1)C(C)C | C21H20O4S
